US06949674B2
Dipotassium 5-ethynylisophthalate in an amount of 5 g (0.019 moles) was dissolved into 20 ml of ion-exchanged water and insoluble substances were removed by filtration with a 5C filter paper. To the obtained filtrate, a 5 moles/liter hydrochloric acid was added under stirring until the pH became 1. The formed solid substance was separated by filtration, washed with ion-exchanged water and filtered. The filtration and the washing were repeated twice. The obtained solid substance was dried at 50° C. under a reduced pressure and 3.6 g of 5-ethynylisophthalic acid was obtained (the yield: 99.5%).

reactant | Dipotassium 5-ethynylisophthalate | C(#C)C=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-].[K+].[K+]
solvent | water | 20 ml | O | H2O
product | 5-ethynylisophthalic acid | 3.6 g, yield: 99.5% | C(#C)C=1C=C(C=C(C(=O)O)C1)C(=O)O | C10H6O4
